US06410729B1
Step E: 2-(((S)-2-Amino-3-phenylpropyl)amino)-5-(3-chloro-4-fluorophenyl)-4-(4-pyridyl)-pyrimidine hydrochloride
A mixture of 2-((2(S)-amino-3-phenylpropyl)amino)-5-bromo-4-(4-pyridyl)-pyrimidine (204 mg, 0.53 mmol), aqueous 2M sodium carbonate (1.66 ml, 3.32 mmol) and 3-chloro-4-fluorobenzene boronic acid (103 mg, 0.637 mmol) in toluene (5 ml) was stirred for 10 min under argon. The mixture was thoroughly degassed (10 times), before the addition of tetrakis(triphenylphosphine)palladium(0) (18 mg, 0.016 mmol) After heating at reflux for 16 h, the reaction mixture was diluted with toluene and washed with brine. The organic solution was dried and evaporated. Subsequent column chromatography on silica gel (dichloromethane-methanol-conc. ammonium hydroxide=95:5:04) provided the title compound which was converted into the hydrochloride by the addition of 6N hydrochloric acid (64 μl) to its methanolic solution (2 ml) followed by evaporation. MS (m/z): 434.1 (M)+; C24H21ClFN5 requir. 433.9 (free base).

reactant | 2-((2(S)-amino-3-phenylpropyl)amino)-5-bromo-4-(4-pyridyl)-pyrimidine | 0.53 mmol, 204 mg | N[C@H](CNC1=NC=C(C(=N1)C1=CC=NC=C1)Br)CC1=CC=CC=C1 | C18H18BrN5
reactant | sodium carbonate | 3.32 mmol, 2M, 1.66 ml | C([O-])([O-])=O.[Na+].[Na+]
reactant | 3-chloro-4-fluorobenzene boronic acid | 0.637 mmol, 103 mg | ClC=1C=C(C=CC1F)B(O)O | C6H5BClFO2
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.016 mmol, 18 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-(((S)-2-Amino-3-phenylpropyl)amino)-5-(3-chloro-4-fluorophenyl)-4-(4-pyridyl)-pyrimidine hydrochloride | Cl.N[C@H](CNC1=NC=C(C(=N1)C1=CC=NC=C1)C1=CC(=C(C=C1)F)Cl)CC1=CC=CC=C1 | InChI=1S/C24H21ClFN5.ClH/c25-21-13-18(6-7-22(21)26)20-15-30-24(31-23(20)17-8-10-28-11-9-17)29-14-19(27)12-16-4-2-1-3-5-16;/h1-11,13,15,19H,12,14,27H2,(H,29,30,31);1H/t19-;/m0./s1
